US06235731B1
3-(4-Cyanophenyl)propyl methanesulfonate (307 mg, 1.28 mmol) was added to a stirred solution of N-(piperidin-4-yl)-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride (400 mg, 1.07 mmol), triethylamine (539 mg, 5.33 mmol), sodium iodide (192 mg, 1.28 mmol) and 1,8-diazabicyclo[5.4.0]undecene (326 mg, 2.14 mmol) in acetonitrile (20 ml) at room temperature. After refluxing under nitrogen for 14 hours, the reaction mixture was concentrated in vacuo. The residue was dissolved in water and extracted with chloroform. The extract was washed with brine, dried over MgSO4 and concentrated in vacuo. The residue was chromatographed on silica gel (20 g) with Ethyl acetate-Methanol (2:1) to give N-[1-[3-(4-cyanophenyl)propan-1-yl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide as a purple oil (298 mg, 63%).

reactant | 3-(4-Cyanophenyl)propyl methanesulfonate | 1.28 mmol, 307 mg | CS(=O)(=O)OCCCC1=CC=C(C=C1)C#N | C11H13NO3S
reactant | N-(piperidin-4-yl)-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride | 1.07 mmol, 400 mg | Cl.Cl.N1CCC(CC1)NC(=O)C1=CC2=CN=C3C=CC=C(S1)N32
reactant | triethylamine | 5.33 mmol, 539 mg | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | 1.28 mmol, 192 mg | [I-].[Na+]
reactant | 1,8-diazabicyclo[5.4.0]undecene | 2.14 mmol, 326 mg | N12C=CCCCC2NCCC1 | C9H16N2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | N-[1-[3-(4-cyanophenyl)propan-1-yl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 298 mg, 63% | C(#N)C1=CC=C(C=C1)CCCN1CCC(CC1)NC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C25H25N5OS
